US07981903B2
2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (117 mg, 0.17 mmol) was dissolved in dioxane (3 mL) and 2N NaOH (2 mL) was added in a microwave safe vessel. The reaction was then heated in a microwave at 120° C. for 35 min. Reaction was diluted with EtOAc and the organic layer was washed with water and saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-y]amino}-6-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide (35 mg, 0.066 mmol) as an off white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 6 H) 2.28 (s, 3 H) 3.12 (t, J=8.24 Hz, 2 H) 3.17 (s, 2 H) 3.78 (s, 3 H) 4.18 (t, J=8.33 Hz, 2 H) 5.90 (s, 1 H) 6.76-6.91 (m, 1 H) 6.95 (s, 1H) 7.30 (d, J=6.96 Hz, 1 H) 7.50 (s, 1 H) 7.95-8.14 (m, 2 H) 8.53 (d, J=8.61 Hz, 1 H) 8.65 (s, 1 H) 10.42 (s, 1 H) 11.17 (s, 1 H). ESIMS (M+H)+=533.

reactant | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.17 mmol, 117 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C.CN(CC(=O)N2CCC1=CC(=C(C=C21)NC2=NC(=C1C(N2)=NC(=C1)C)NC1=C(C(=O)N)C(=CC=C1)F)OC)C
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-y]amino}-6-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 0.066 mmol, 35 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC(=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C27H29FN8O3
